US04602012
(6R,7R)-7-(2-Thienylacetamido)-3-(trichloroacetylcarbamoyloxymethyl)ceph-3-em-4-carboxylic Acid
Trichloroacetylisocyanate (4.3 ml) was added rapidly to a stirred suspension of (6R,7R)-3-hydroxymethyl-7-(2-thienylacetamido)ceph-3-em-4-carboxylic acid (10.62 g) at 6° in ethyl acetate (70 ml). The reaction mixture was stirred at 5° for 40 min. Petroleum ether was added dropwise during 15 min. The mixture was stirred for 30 min, filtered and the solid was washed with petroleum ether and dried to give the title compound as a solid (16.48 g), [α]D22 +73° (c 1.2 in Me2SO).

reactant | Trichloroacetylisocyanate | 4.3 ml | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | (6R,7R)-3-hydroxymethyl-7-(2-thienylacetamido)ceph-3-em-4-carboxylic acid | 10.62 g | OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O | C14H14N2O5S2
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | (6R,7R)-7-(2-Thienylacetamido)-3-(trichloroacetylcarbamoyloxymethyl)ceph-3-em-4-carboxylic Acid | 16.48 g | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(NC(C(Cl)(Cl)Cl)=O)=O)C(=O)O)C1=O | C17H14Cl3N3O7S2
